US07683017B2
Step 3—Preparation of N′-(4-nitrophenyl)-N,N′-di-n-hexylbenzene-1,4-diamine
To a flask equipped with a magnetic stirrer, reflux condenser, and a nitrogen inlet was added N,N-di-n-hexylbenzene1,4-diamine (22.3 grams 0.09 moles), 1-fluoro-4-nitrobenzene (4.3 grams. 0.03 moles) and anhydrous methyl sulfoxide (40 ml). The contents of the flask were heated at 100° C. for 3 days; cooled to room temperature; partitioned between ethyl acetate (200 ml) and water (100 ml). The ethyl acetate extract was washed with water (4×100 ml) followed by brine (50 ml). The ethyl acetate extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield a dark brown oil containing excess N,N-di-n-hexyl-N-(4-nitrophenyl)amine. The dark brown oil was chromatographed on silica gel, eluting with hexane/ethyl acetate gradient to afford 11.8 grams of the desired product as a dark purple color oil. 1H NMR (DMSO-d4) δ 8.95(bs, 1H), 8.0(d, 2H), 7.0(d, 2H), 6.8(d, 2H), 6.6(d, 2M), 3.25(t, 4H), 1.5(pent, 4H), 1.2-1.4(m, 12H), 0.9(t, 6H),

reactant | N,N-di-n-hexylbenzene1,4-diamine | 0.09 moles, 22.3 grams | C(CCCCC)N(C1=CC=C(C=C1)N)CCCCCC | C18H32N2
reactant | 1-fluoro-4-nitrobenzene | 0.03 moles, 4.3 grams | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-di-n-hexyl-N-(4-nitrophenyl)amine | C(CCCCC)N(C1=CC=C(C=C1)[N+](=O)[O-])CCCCCC | C18H30N2O2
solvent | methyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | N′-(4-nitrophenyl)-N,N′-di-n-hexylbenzene-1,4-diamine | 11.8 grams | [N+](=O)([O-])C1=CC=C(C=C1)N(C1=CC=C(C=C1)NCCCCCC)CCCCCC | C24H35N3O2
